data/rdb19/train.csv
rxn,smiles,ea
2461,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([N:10]([C:11](=[O:12])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])[O:12][C:11]([N:10]([C:9](=[C:8]([H:13])[H:14])[H:15])[H:16])[H:17])([H:5])([H:6])[H:7],29.82966710306937
3821,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25],18.87222275370732
5182,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])([C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:28])[H:29])[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],21.49503574945265
4124,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:30])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21][c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])([H:28])[H:29],30.55397292377893
2418,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])([N:12]([C:13](=[O:14])[H:25])[H:24])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:13](=[O:14])[H:25].[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][N:12]([C:10]([C:9]([C:8]([H:15])([H:16])[H:17])([H:18])[H:19])([C:11]([H:21])([H:22])[H:23])[H:20])[H:24],51.31924624030944
1134,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[O:18][C:17]([N:16]([C:15](=[C:14]([H:19])[H:20])[H:21])[H:22])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],31.004581558459904
4584,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24][c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:38])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],25.3759455200634
1157,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[O:18][C:17]([O:16][C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],29.94666489592055
3644,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:22]([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([O:23])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],26.8779947682051
5559,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:8])[H:9].[H:7][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25],22.759966550162066
998,[C:14]([C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([H:5])[C:14]([H:18])([H:19])[H:20])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],52.804218507080805
